US03947466
In the manner given in Example 12, 2-[3,5-bis(hydroxymethyl)-4H-1,2,4-triazol-4-yl]benzophenone, phthalimide and triphenylphosphine in tetrahydrofuran is reacted with diethyl azodicarboxylate to give 2-[3,5-bis(phthalimidomethyl)4H-1,2,4-triazol-4-yl]benzophenone.

reactant | 2-[3,5-bis(hydroxymethyl)-4H-1,2,4-triazol-4-yl]benzophenone | OCC1=NN=C(N1C1=C(C(=O)C2=CC=CC=C2)C=CC=C1)CO | C17H15N3O3
reactant | phthalimide | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-[3,5-bis(phthalimidomethyl)4H-1,2,4-triazol-4-yl]benzophenone | C1(C=2C(C(N1CC1=NN=C(N1C1=C(C(=O)C3=CC=CC=C3)C=CC=C1)CN1C(C=3C(C1=O)=CC=CC3)=O)=O)=CC=CC2)=O | C33H21N5O5
